US04438128
1-Phenoxy-3-[3-(indazol-4-ylamino)-propylamino]-propan-2-ol benzoate
3.0 g. Phenyl glycidyl ether and 7.5 g. 4-(3-aminopropylamino)-indazole are dissolved in 10 ml. dimethylformamide at 60° C. and then left to stand for a day at ambient temperature. The reaction mixture is poured into water, extracted with methylene chloride, dried and purified chromatographically on silica gel in the manner described in Example 21. The viscous residue of the pure fractions (5.3 g.; 78% of theory) is dissolved in a little ethyl acetate, whereafter 2 g. benzoic acid are added thereto, followed by suction filtration and recrystallization from ethanol, with the use of active charcoal. There are obtained 2.8 g. (30% of theory) of the desired product in the form of colorless crystals; m.p. 162°-164° C.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 4-(3-aminopropylamino)-indazole | NCCCNC1=C2C=NNC2=CC=C1 | C10H14N4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
product | 1-Phenoxy-3-[3-(indazol-4-ylamino)-propylamino]-propan-2-ol benzoate | C(C1=CC=CC=C1)(=O)OC(COC1=CC=CC=C1)CNCCCNC1=C2C=NNC2=CC=C1 | C26H28N4O3
